* Post-layout EXTRACTED DUT netlist -- GENERATED, do not edit by hand.
*
* extract report : layout/lvs/reports/gate_driver_core/20260818-092501-c2493cb.extract.json
* layout gds     : layout/gate_driver_core.gds
* extraction deck: gf180mcu (sha256:6a323622d93c1b4716a7874c37ee3d825bd08398c3c030c85175e44e2cc229a3)  (klt extract)
* klt/klayout    : 0.2.0 / 0.30.10
* devices        : 963 {'cap_mim_2f0_m4m5_noshield': 4, 'nfet': 299, 'pfet': 660} -> {'nfet_03v3': 3, 'nfet_06v0': 296, 'pfet_03v3': 1, 'pfet_06v0': 659, 'cap_mim_2f0_m4m5_noshield': 4}
* regenerate     : python3 layout/lvs/mk_extracted_dut.py --extract layout/lvs/reports/gate_driver_core/20260818-092501-c2493cb.extract.json --combine -o layout/lvs/gate_driver_core.extracted.spice
*
* ------------------------------------------------------------------
* Mechanical transforms applied to the extractor's own output
* ------------------------------------------------------------------
* T1. Flattening: the extractor's `.SUBCKT gate_driver_core ... .ENDS` wrapper
*     is dropped -- every device/parasitic card is emitted at deck level,
*     matching this repo's existing DUT-fragment convention
*     (design/netlist/gate_driver_core.spice's own top .subckt line is commented
*     out for the identical reason -- design/README.md).
* T2. MOS cards: the extractor's `M<n> d g s b nfet|pfet L=..U W=..U` is rebound
*     to the real gf180mcu `nfet_03v3`/`nfet_06v0`/`pfet_03v3`/`pfet_06v0`
*     subcircuit, selected by (device class, drawn L) -- the extraction deck's
*     generic `nfet`/`pfet` device class does not distinguish voltage flavor
*     (gate_driver_core.checks.json's voltage_domain_warnings; also
*     layout/lvs/make_reference.py's transform 2), but this design's drawn L
*     cleanly disjoint-identifies it. `nf=1 m=1`: each extracted device is one
*     drawn finger, so the schematic's `nf`/`m` multipliers are already spent as
*     real, separately-extracted geometry. Emitted as an `X<n>` subcircuit call,
*     matching design/netlist/gate_driver_core.spice's own device cards, because
*     those PDK models ARE .subckts: ngspice will resolve an `M` card against a
*     subcircuit of that name, but then expands `m=<n>` into n separate
*     subcircuit instances instead of passing m down to the model -- measured at
*     3.32 s of CPU for the `X` form of this netlist versus ~2200 s for the `M`
*     form, at bit-identical measured results.
* T3. MOS junction geometry: AS/AD/PS/PD are carried through verbatim from the
*     extractor's own measured `as_um2`/`ad_um2`/`ps_um`/`pd_um` (unlike
*     gf180-bandgap's deck, this deck's gf180mcu extractor reports these
*     directly -- no recomputation needed).
* T4. MOS body terminal: rebound to the real rail this design's schematic ties
*     that flavor to -- GND_LOGIC/GND_DRV for NMOS, VDD_LOGIC/VDD_DRV for PMOS,
*     selected by the same (class, L) binning as T2. Issue #132 drew real
*     per-device body-tie geometry for every device (both flavors), and a real
*     `klt extract` of that geometry now measures exactly this assignment on its
*     own (PMOS: each device's own real Nwell-tie net; NMOS: the deck's global
*     substrate identity, which is itself now wired to real labeled
*     GND_LOGIC/GND_DRV metal instead of floating -- klayout-tools #1128,
*     layout/lvs/make_reference.py's transform 3/5) -- so this transform is now
*     a redundant assertion of an already-measured fact, not a fabrication
*     filling a gap the deck cannot see. It stays a rebind (rather than reading
*     `dev['nets']['b']` directly) so GND_LOGIC and GND_DRV keep their own
*     separate names here -- the deck's own raw extraction merges both grounds
*     into one synthesized joined label (`GND_DRV|GND_LOGIC`) it has no
*     equivalent synthesized label for on the supply side, and T5's per-net
*     parasitic stars are keyed by the schematic's own real net names, not that
*     merged one. See BA1/BA2 and layout/README.md.
* T5. Parasitics (only when `klt extract --parasitics` was used): each named
*     net's own per-terminal star (device leg -> resistor -> hub) and hub ->
*     capacitor -> ground-reference are carried through verbatim from
*     `parasitics.nets[]`, renaming only the ground reference itself (`vsubs` ->
*     GND_LOGIC, T4/BA3, since the deck reports no parasitics entry for `vsubs`
*     as a net in its own right). Net-to-net coupling capacitance
*     (`parasitics.nets[].coupled`) is NOT emitted -- a documented scope
*     reduction, not a silent drop; every ground-referenced term is measured,
*     every coupling term is omitted, stated once here rather than per-record.
*     Since issue #132 the extraction deck reports BOTH ground rails as one
*     merged net (klayout-tools #1128), which has no single hub of its own here:
*     every terminal on it belongs to exactly one real ground domain by (class,
*     L) (T4/BA1), so each of its legs is emitted with the leg's OWN device's
*     real GND_LOGIC/GND_DRV as that leg's hub -- the same per-device rebind the
*     leg net itself gets, never one shared hub (which would reroute one
*     domain's return current through the testbench's inter-rail tie; see
*     MERGED_GROUND_RAW). That reproduces exactly the pre-#132 topology, where
*     each rail's own star hub WAS that rail's node: 297 ground-rail R legs
*     (issue #184). The merged net's own measured ground capacitance is emitted
*     once between the two real rails it spans (GND_DRV<->GND_LOGIC), the same
*     place the pre-#132 GND_DRV star's cap landed -- the deck reports one
*     lumped value for the merged metal and resolves no per-domain split, so it
*     is carried whole rather than apportioned by assertion.
* T6. (only with --combine, and only on a non-parasitic extraction) Device
*     folding: parallel-identical fingers of one schematic device (exactly
*     matching (model, d, g, s, body, L, W, AD, AS, PD, PS) after T2/T4) are
*     folded back into one `m=<n>` card. This is a simulation- cost
*     optimization, not a fidelity change -- an ideal parallel combination of n
*     identical devices *is* `m=n` in SPICE -- needed because 959
*     individually-instantiated fingers (one per drawn finger, this script's
*     default) cost roughly three orders of magnitude more simulation time than
*     the same circuit as `m=`-scaled instances, to the point of being
*     PVT-grid-infeasible within a bounded evidence run.
* T7. (issue #166/#201) Passive cards: a CAP_CLASSES device (this design's only
*     case: the four-deep XCCOMP MiM series stack) has no d/g/s/b terminals and
*     no gf180mcu subcircuit to rebind to -- it is emitted directly as an
*     ngspice `C<n> a b <value>` card, `value` carried through verbatim from the
*     extractor's own measured `params.c_f` (the same two-term area+perimeter
*     model make_reference.py's transform 6 restates over the schematic
*     geometry). Never grouped by --combine: with only four instances there is
*     no simulation-cost case for folding them, and each occupies a distinct
*     position in the series chain (distinct nets), so no two are ever
*     combine-eligible anyway. Its two terminals still route through T5's
*     per-net leg resistor the same as any MOS terminal when --parasitics is
*     present -- the merged-ground body-terminal skip below is scoped to MOS
*     devices only so it cannot mistake a capacitor's `b` terminal for a MOS
*     body leg.
* T8. (issue #201) Anonymous-net rename: any net the extractor names `$N` (its
*     own convention for a net with no schematic label -- this design's first
*     real case is T7's XCCOMP inter-cap nodes) is rewritten to `ANON<N>`
*     wherever it would otherwise appear as a bare SPICE node token. `$`
*     starting a token is an inline-comment marker to ngspice, so left as-is
*     these nets silently truncate every card that names them -- no simulator
*     error, just a per-card `... is not a valid ... line, ignored!` warning
*     outside this script's or run_corners.py's own PASS/FAIL summary. Applied
*     at every point a raw extractor net name reaches a bare node position
*     (`leg_of()`'s return, and T5's per-net star loop); never applied to a name
*     only ever embedded inside a longer instance name (e.g. an R-leg card's own
*     `R$18__t0` name field), since a `$` that is not a token's first character
*     does not trigger this.
*
* ------------------------------------------------------------------
* Back-annotated: terminals/nets the extraction deck cannot resolve
* ------------------------------------------------------------------
* BA1  NMOS body -> GND_LOGIC (3.3V flavor) / GND_DRV (6V flavor)
*      (issue #132: real substrate-tie geometry now measures this same
*       assignment directly -- klt lvs reports zero device.body_unverified
*       mismatches for either flavor. Kept as a rebind, not a fabrication,
*       so GND_LOGIC/GND_DRV keep separate names here -- see T4)
* BA2  PMOS body -> VDD_LOGIC (3.3V flavor) / VDD_DRV (6V flavor)
*      (issue #132: real well-tie geometry now measures this same
*       assignment directly, per device -- redundant with T4, not a gap)
* BA3  parasitic ground-cap reference `vsubs` -> GND_LOGIC
*      (GND_LOGIC/GND_DRV are one electrical node by design intent;
*       GND_LOGIC is the documented, arbitrary choice of the two. `vsubs`
*       itself no longer appears in a real extraction of this layout --
*       see make_reference.py transform 3 -- but a --parasitics run's
*       own per-net table is still keyed by the schematic's pre-merge
*       net names, so this rename is still the correct lookup key)
*
* sha256 (this file, sans this line): d8884afdf1c522cd470689dda75f6a16
* Everything else -- device existence, drawn W/L/AS/AD/PS/PD,
* drain/gate/source connectivity, and (when present) the per-net
* ground-referenced RC parasitics -- is measured, not asserted.

* FLAT form: device/parasitic cards at deck level, no `.SUBCKT` wrapper --
* matches this repo's existing DUT-fragment convention (T1).

X1 x1_inb IN GND_LOGIC GND_LOGIC nfet_03v3 L=0.28U W=5U nf=1 ad=2.1P as=2.1P pd=10.84U ps=10.84U m=1
X2 x1_na IN GND_LOGIC GND_LOGIC nfet_03v3 L=0.28U W=20U nf=1 ad=8.4P as=8.4P pd=40.84U ps=40.84U m=1
X3 x1_nb x1_inb GND_LOGIC GND_LOGIC nfet_03v3 L=0.28U W=20U nf=1 ad=8.4P as=8.4P pd=40.84U ps=40.84U m=1
X4 GND_DRV x2_n3 x2_n4 GND_DRV nfet_06v0 L=0.7U W=10U nf=1 ad=2.1P as=2.1P pd=10.42U ps=10.42U m=6
X5 GND_DRV x2_n3 x2_n4 GND_DRV nfet_06v0 L=0.7U W=10U nf=1 ad=4.2P as=2.1P pd=20.84U ps=10.42U m=1
X6 GND_DRV x2_n4 x2_n5 GND_DRV nfet_06v0 L=0.7U W=10U nf=1 ad=2.1P as=2.1P pd=10.42U ps=10.42U m=27
X7 GND_DRV x2_n5 OUT GND_DRV nfet_06v0 L=0.7U W=10U nf=1 ad=2.1P as=2.1P pd=10.42U ps=10.42U m=109
X8 GND_DRV x2_n5 OUT GND_DRV nfet_06v0 L=0.7U W=10U nf=1 ad=4.2P as=2.1P pd=20.84U ps=10.42U m=1
X9 IN_DRV x1_nbuf1 GND_DRV GND_DRV nfet_06v0 L=0.7U W=15U nf=1 ad=6.3P as=6.3P pd=30.84U ps=30.84U m=1
X10 OUT x2_n5 GND_DRV GND_DRV nfet_06v0 L=0.7U W=10U nf=1 ad=2.1P as=2.1P pd=10.42U ps=10.42U m=109
X11 OUT x2_n5 GND_DRV GND_DRV nfet_06v0 L=0.7U W=10U nf=1 ad=2.1P as=4.2P pd=10.42U ps=20.84U m=1
X12 x1_nbuf1 x1_ncb GND_DRV GND_DRV nfet_06v0 L=0.7U W=5U nf=1 ad=2.1P as=2.1P pd=10.84U ps=10.84U m=1
X13 x1_nca VDD_LOGIC x1_na GND_DRV nfet_06v0 L=0.7U W=20U nf=1 ad=8.4P as=8.4P pd=40.84U ps=40.84U m=1
X14 x1_ncb VDD_LOGIC x1_nb GND_DRV nfet_06v0 L=0.7U W=20U nf=1 ad=8.4P as=8.4P pd=40.84U ps=40.84U m=1
X15 x2_n1 IN_DRV GND_DRV GND_DRV nfet_06v0 L=0.7U W=2U nf=1 ad=0.84P as=0.84P pd=4.84U ps=4.84U m=1
X16 x2_n2 x2_n1 GND_DRV GND_DRV nfet_06v0 L=0.7U W=8U nf=1 ad=3.36P as=3.36P pd=16.84U ps=16.84U m=1
X17 x2_n3 x2_n2 GND_DRV GND_DRV nfet_06v0 L=0.7U W=33U nf=1 ad=13.86P as=13.86P pd=66.84U ps=66.84U m=1
X18 x2_n4 x2_n3 GND_DRV GND_DRV nfet_06v0 L=0.7U W=10U nf=1 ad=2.1P as=2.1P pd=10.42U ps=10.42U m=6
X19 x2_n4 x2_n3 GND_DRV GND_DRV nfet_06v0 L=0.7U W=10U nf=1 ad=2.1P as=4.2P pd=10.42U ps=20.84U m=1
X20 x2_n5 x2_n4 GND_DRV GND_DRV nfet_06v0 L=0.7U W=10U nf=1 ad=2.1P as=2.1P pd=10.42U ps=10.42U m=26
X21 x2_n5 x2_n4 GND_DRV GND_DRV nfet_06v0 L=0.7U W=10U nf=1 ad=2.1P as=4.2P pd=10.42U ps=20.84U m=1
X22 x2_n5 x2_n4 GND_DRV GND_DRV nfet_06v0 L=0.7U W=10U nf=1 ad=4.2P as=2.1P pd=20.84U ps=10.42U m=1
X23 x1_inb IN VDD_LOGIC VDD_LOGIC pfet_03v3 L=0.28U W=10U nf=1 ad=4.2P as=4.2P pd=20.84U ps=20.84U m=1
X24 IN_DRV x1_nbuf1 VDD_DRV VDD_DRV pfet_06v0 L=0.55U W=15U nf=1 ad=6.3P as=6.3P pd=30.84U ps=30.84U m=1
X25 OUT x2_n5 VDD_DRV VDD_DRV pfet_06v0 L=0.55U W=10U nf=1 ad=2.1P as=2.1P pd=10.42U ps=10.42U m=249
X26 OUT x2_n5 VDD_DRV VDD_DRV pfet_06v0 L=0.55U W=10U nf=1 ad=2.1P as=4.2P pd=10.42U ps=20.84U m=1
X27 VDD_DRV x2_n3 x2_n4 VDD_DRV pfet_06v0 L=0.55U W=10U nf=1 ad=2.1P as=2.1P pd=10.42U ps=10.42U m=14
X28 VDD_DRV x2_n3 x2_n4 VDD_DRV pfet_06v0 L=0.55U W=10U nf=1 ad=4.2P as=2.1P pd=20.84U ps=10.42U m=1
X29 VDD_DRV x2_n4 x2_n5 VDD_DRV pfet_06v0 L=0.55U W=10U nf=1 ad=2.1P as=2.1P pd=10.42U ps=10.42U m=60
X30 VDD_DRV x2_n4 x2_n5 VDD_DRV pfet_06v0 L=0.55U W=10U nf=1 ad=4.2P as=2.1P pd=20.84U ps=10.42U m=1
X31 VDD_DRV x2_n5 OUT VDD_DRV pfet_06v0 L=0.55U W=10U nf=1 ad=2.1P as=2.1P pd=10.42U ps=10.42U m=249
X32 VDD_DRV x2_n5 OUT VDD_DRV pfet_06v0 L=0.55U W=10U nf=1 ad=4.2P as=2.1P pd=20.84U ps=10.42U m=1
X33 x1_nbuf1 x1_ncb VDD_DRV VDD_DRV pfet_06v0 L=0.55U W=5U nf=1 ad=2.1P as=2.1P pd=10.84U ps=10.84U m=1
X34 x1_nca x1_ncb VDD_DRV VDD_DRV pfet_06v0 L=0.55U W=3U nf=1 ad=1.26P as=1.26P pd=6.84U ps=6.84U m=1
X35 x1_ncb x1_nca VDD_DRV VDD_DRV pfet_06v0 L=0.55U W=3U nf=1 ad=1.26P as=1.26P pd=6.84U ps=6.84U m=1
X36 x2_n1 IN_DRV VDD_DRV VDD_DRV pfet_06v0 L=0.55U W=4.4U nf=1 ad=1.848P as=1.848P pd=9.64U ps=9.64U m=1
X37 x2_n2 x2_n1 VDD_DRV VDD_DRV pfet_06v0 L=0.55U W=18U nf=1 ad=7.56P as=7.56P pd=36.84U ps=36.84U m=1
X38 x2_n3 x2_n2 VDD_DRV VDD_DRV pfet_06v0 L=0.55U W=73U nf=1 ad=30.66P as=30.66P pd=146.84U ps=146.84U m=1
X39 x2_n4 x2_n3 VDD_DRV VDD_DRV pfet_06v0 L=0.55U W=10U nf=1 ad=2.1P as=2.1P pd=10.42U ps=10.42U m=14
X40 x2_n4 x2_n3 VDD_DRV VDD_DRV pfet_06v0 L=0.55U W=10U nf=1 ad=2.1P as=4.2P pd=10.42U ps=20.84U m=1
X41 x2_n5 x2_n4 VDD_DRV VDD_DRV pfet_06v0 L=0.55U W=10U nf=1 ad=2.1P as=2.1P pd=10.42U ps=10.42U m=60
X42 x2_n5 x2_n4 VDD_DRV VDD_DRV pfet_06v0 L=0.55U W=10U nf=1 ad=2.1P as=4.2P pd=10.42U ps=20.84U m=1

* T7: passive cards (CAP_CLASSES devices -- issue #166's XCCOMP stack)
C960 x1_ncb ANON18 5.4516e-14
C961 ANON19 ANON18 5.4516e-14
C962 ANON19 ANON20 5.4516e-14
C963 IN_DRV ANON20 5.4516e-14
